US07824582B2
Synthesis of 4-methoxy-2,6-dimethylphenylboronic acid (2).
An oven-dried three-neck round-bottom flask equipped with two rubber septum-sealed addition funnels and a sidearm stopcock was evacuated and backfilled with N2. Dry THF (100 mL) and 2-bromo-5-methoxy-1,3-dimethyl-benzene (21.5 g, 0.100 mol) were then added via syringe. The mixture was then cooled to −78° C. with stirring in a dry ice-acetone bath. Next, n-butyl lithium (2.5 M solution in hexane, 44 mL, 0.11 mol) was added dropwise via syringe with stirring over the course of 45 min at −78° C., and the mixture was allowed to stir at −78° C. for an additional 30 min. Triisopropyl borate (28.2 g, 0.150 mol) was then added dropwise via syringe over the course of 30 min at −78° C. After stirring at −78° C. for an additional 1 h, the mixture was quenched with saturated aqueous NH4Cl solution (100 mL), and the resulting mixture allowed to gradually warm to room temperature. The organic layer was next separated, and the aqueous layer was extracted with a mixture of ethyl acetate and THF (1:1, 50 mL×3). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The resulting sticky oil was suspended in hexane (100 mL) and stirred at room temperature for 30 min. The resulting solid was collected by filtration and washed with hexane to yield 14.9 g of the title compound as a colorless solid (83%). 1H NMR (400 MHz, CDCl3): δ 6.552 (s, 2H), 4.684 (s, 2H), 3.780 (s, 3H), 2.370 (s, 6H). 13C NMR (100 MHz, CDCl3): δ 141.714, 122.607, 112.325, 111.815, 55.238, 22.663. MS (EI): m/z 180.1 [M+, 100]. Anal. Calcd. For C9H13BO3: C, 60.05; H, 7.28. Found: C, 60.27; H, 7.42.

reactant | 2-bromo-5-methoxy-1,3-dimethyl-benzene | 0.100 mol, 21.5 g | BrC1=C(C=C(C=C1C)OC)C | C9H11BrO
reactant | n-butyl lithium | 0.11 mol, 2.5 M, 44 mL | C(CCC)[Li]
reactant | Triisopropyl borate | 0.150 mol, 28.2 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-methoxy-2,6-dimethylphenylboronic acid | 14.9 g, 83% | COC1=CC(=C(C(=C1)C)B(O)O)C | C9H13BO3
